US08232403B2
Synthesis of trans-4-{(R)-1-[3-({N-[3,5-bis(trifluoromethyl)benzyl]-N-(2-methyl-2H-tetrazol-5-yl)amino}methyl)-6,7-difluoroquinolin-2-yl]pyrrolidin-2-yl}cyclohexanecarbaldehyde
Dess-Martin periodinate (4.07 g, 9.6 mmol) is added to a suspension of trans-(4-{(R)-1-[3-({N-[3,5-bis(trifluoromethyl)benzyl]-N-(2-methyl-2H-tetrazol-5-yl)amino}methyl)-6,7-difluoroquinolin-2-yl]pyrrolidin-2-yl}cyclohexyl)methanol (6.25 g, 9.1 mmol) in CH2Cl2 (75 mL) at 0° C., and the resulting mixture is stirred at room temperature for 20 min. The reaction mixture is quenched by addition of sat. NaHCO3 aq. and extracted with CH2Cl2. The combined organic layer is washed with brine, dried over magnesium sulfate, filtered and concentrated. The crude product is purified by silica gel column chromatography to give trans-4-{(R)-1-[3-({N-[3,5-bis(trifluoromethyl)benzyl]-N-(2-methyl-2H-tetrazol-5-yl)amino}methyl)-6,7-difluoroquinolin-2-yl]pyrrolidin-2-yl}cyclohexanecarbardehyde.

reactant | Dess-Martin | 9.6 mmol, 4.07 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | trans-(4-{(R)-1-[3-({N-[3,5-bis(trifluoromethyl)benzyl]-N-(2-methyl-2H-tetrazol-5-yl)amino}methyl)-6,7-difluoroquinolin-2-yl]pyrrolidin-2-yl}cyclohexyl)methanol | 9.1 mmol, 6.25 g | FC(C=1C=C(CN(C=2N=NN(N2)C)CC=2C(=NC3=CC(=C(C=C3C2)F)F)N2[C@H](CCC2)[C@@H]2CC[C@H](CC2)CO)C=C(C1)C(F)(F)F)(F)F | C32H33F8N7O
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
product | trans-4-{(R)-1-[3-({N-[3,5-bis(trifluoromethyl)benzyl]-N-(2-methyl-2H-tetrazol-5-yl)amino}methyl)-6,7-difluoroquinolin-2-yl]pyrrolidin-2-yl}cyclohexanecarbaldehyde | FC(C=1C=C(CN(C=2N=NN(N2)C)CC=2C(=NC3=CC(=C(C=C3C2)F)F)N2[C@H](CCC2)[C@@H]2CC[C@H](CC2)C=O)C=C(C1)C(F)(F)F)(F)F | C32H31F8N7O
